US05028254
Production of 7-(4-fluorobenzyl)-4,4-dimethyl-1-oxaspiro[2.4]heptane (the intermediate compounds No. 81 and No. 82 shown in Table 2 according to the B-method)
Into 170 ml of chloroform, 17 g of 5-[4-fluorobenzyl)-2,2-dimethyl-1-methylenecyclopentane (the compound No. shown in Table 3) were dissolved, and then, 27.1 g of m-chloroperbenzoic acid were added to the mixture within 10 min, and the thus obtained mixture was stirred for 2 hours at room temperature. In the next place, 25.4 g of calcium hydroxide were added to the mixture within 10 min, and the mixture was stirred for 30 min at room temperature.

reactant | 5-[4-fluorobenzyl)-2,2-dimethyl-1-methylenecyclopentane | 17 g | FC1=CC=C(CC2CCC(C2=C)(C)C)C=C1 | C15H19F
reactant | m-chloroperbenzoic acid | 27.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | 25.4 g | [OH-].[Ca+2].[OH-]
solvent | chloroform | 170 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-(4-fluorobenzyl)-4,4-dimethyl-1-oxaspiro[2.4]heptane | FC1=CC=C(CC2CCC(C23CO3)(C)C)C=C1 | C15H19FO
